US07846928B2
Preparation of 6-Furan-2-yl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile
In analogy to GP 1, reaction of 1.85 g ammonium acetate (24 mmol, 8 eq.), 0.28 ml ethyl cyanoacetate (3 mmol, 1 eq.), 330 mg furan-2-carbaldehyde (3 mmol, 1 eq.), and 453 mg 4-nitrobenzaldehyde (3 mmol, 1 eq.) yielded 362 mg product (39% yield).

reactant | ammonium acetate | 24 mmol, 1.85 g, 8 eq. | C(C)(=O)[O-].[NH4+]
reactant | ethyl cyanoacetate | 3 mmol, 0.28 ml, 1 eq. | C(#N)CC(=O)OCC | C5H7NO2
reactant | furan-2-carbaldehyde | 3 mmol, 330 mg, 1 eq. | O1C(=CC=C1)C=O | C5H4O2
reactant | 4-nitrobenzaldehyde | 3 mmol, 453 mg, 1 eq. | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 6-Furan-2-yl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 362 mg, 39% yield | O1C(=CC=C1)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C16H9N3O4
